US04695639
In 1.26 liters of methylene chloride was dissolved 420 g (5.0 moles) of diketene. The solution was cooled at -30° to -35° C. and 354 g (4.99 moles) of chlorine gas was bubbled into the solution for about an hour to prepare a 4-chloroacetoacetyl chloride solution. 244 ml of this solution (4-chloroacetoacetyl chloride: 109.2 g, 0.705 mole) was cooled to -30° to -40° C. and a solution of 50 g (0.543 mole) of methylthioethanol and 43 g (0.543 mole) of pyridine in 85 ml of methylene chloride was added dropwise at -20° to -30° C. over a period of about 30 minutes. After completion of addition, the reaction was allowed to proceed at -5° C. for 30 minutes. To the reaction mixture were added 500 ml of methylene chloride and 1 liter of water to extract the reaction product. The aqueous layer was further extracted with 500 ml of methylene chloride. The organic layers were combined, washed with 500 ml of water and concentrated to dryness under reduced pressure to give 114 g of methylthioethyl 4-chloroacetoacetate as an oil.

reactant | diketene | 5.0 moles, 420 g | C=C1CC(=O)O1 | C4H4O2
reactant | chlorine | 4.99 moles, 354 g | ClCl | Cl2
reactant | 4-chloroacetoacetyl chloride | ClCC(CC(=O)Cl)=O | C4H4Cl2O2
reactant | methylthioethanol | 0.543 mole, 50 g | CSC(C)O | C3H8OS
reactant | pyridine | 0.543 mole, 43 g | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 1.26 liters | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 85 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
solvent | water | 1 liter | O | H2O
product | methylthioethyl 4-chloroacetoacetate | 114 g | ClCC(CC(=O)OCCSC)=O | C7H11ClO3S
